US07674813B2
B. 2-Ethyl-1-[1-(4-methoxyphenyl)-1H-pyrazol-5-yl]butan-1-ol
To a chilled reaction vessel at −78° C. containing 1-(4-methoxyphenyl)-1H-pyrazole (Tetrahedron Lett. 39(19), 2941-2944, (1998)) (1.096 g, 6.3 mmol) in THF (40 mL) was added a solution of n-butyllithium (2.5M in hexanes, 2.5 mL, 6.4 mmol) dropwise and the mixture was stirred for 1 h. 2-Ethylbutyraldehyde (0.93 mL, 7.5 mmol) was then added dropwise and, after 15 min, the reaction mixture was warmed to room temperature and stirred for 18 h. The reaction mixture was diluted with 0.1N HCl and stirred for 15 min, then poured into a separatory funnel containing EtOAc. The organic layer was separated, dried over MgSO4, filtered and concentrated in vacuo. The resulting oil was purified by column chromatography (SiO2, EtOAc/hexane, 1:4) to yield a pure oil in 68% yield.

reactant | 1-(4-methoxyphenyl)-1H-pyrazole | 6.3 mmol, 1.096 g | COC1=CC=C(C=C1)N1N=CC=C1 | C10H10N2O
reactant | n-butyllithium | 6.4 mmol, 2.5M, 2.5 mL | C(CCC)[Li]
reactant | 2-Ethylbutyraldehyde | 7.5 mmol, 0.93 mL | C(C)C(C=O)CC | C6H12O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | HCl | 0.1N | Cl | ClH
product | 2-Ethyl-1-[1-(4-methoxyphenyl)-1H-pyrazol-5-yl]butan-1-ol | 68% yield | C(C)C(C(O)C1=CC=NN1C1=CC=C(C=C1)OC)CC | C16H22N2O2
